US04584246
D. Crosslinked Divinylbenzene-Vinylbenzyl Chloride Resin (Resin D)
This resin was prepared following essentially the same procedure as Resin B above, except that a mixture of 90 g. vinylbenzyl chloride and 10 g. of 55% commercial divinylbenzene was used instead of the monomer mixture described therein and polymerization was conducted at 70° C. for 1 hour and 30 min.

reactant | vinylbenzyl chloride | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
product | Divinylbenzene Vinylbenzyl Chloride | C(=C)C1=C(C=CC=C1)C=C.C(=C)C(C1=CC=CC=C1)Cl | InChI=1S/C10H10.C9H9Cl/c1-3-9-7-5-6-8-10(9)4-2;1-2-9(10)8-6-4-3-5-7-8/h3-8H,1-2H2;2-7,9H,1H2
